US04931463
(2.1)(b) N-formyl-D-leucine (R)-1-[[(2S,3S)-3-hexyl-4-oxo-2-oxetanyl]methyl]dodecyl ester;
by esterifying (S)-3-hexyl-(S)-4-[(R)-2-hydroxy-5-hexenyl)-2-oxetanone with N-formyl-L-leucine there was obtained

reactant | (S)-3-hexyl-(S)-4-[(R)-2-hydroxy-5-hexenyl)-2-oxetanone | C(CCCCC)[C@@H]1C(O[C@H]1C[C@@H](CCC=C)O)=O | C15H26O3
reactant | N-formyl-L-leucine | C(=O)N[C@@H](CC(C)C)C(=O)O | C7H13NO3
product | N-formyl-D-leucine (R)-1-[[(2S,3S)-3-hexyl-4-oxo-2-oxetanyl]methyl]dodecyl ester | C(CCCCC)[C@H]1[C@@H](OC1=O)C[C@@H](CCCCCCCCCCC)OC([C@H](NC=O)CC(C)C)=O | C29H53NO5
